US04239882
In order to produce polyesters derived from 1,4-butanediol such as polybutyleneterephthalate, the reaction of one mole of terephthalic acid and/or a dialkyl ester with 1.1-2.2 moles of 1,4-butanediol is conducted at about 150°-230° C. for about 0.5-5 hours to produce bis(hydroxybutyl) terephthalate and oligomers thereof. Thereafter, the reaction is continued, heating at a temperature of about 230°-260° C. under a gradually reduced pressure of about 0.05-10 mmHg, until a polyester having a suitable degree of polymerization is produced. Depending upon the progress of the polycondensation, an excess of 1,4-butanediol is distilled out from the reaction system. It is quite important to recover and to reuse the distilled 1,4-butanediol mixture in the polycondensation system in order to lower the cost of the production of the polyester.

reactant | 1,4-butanediol | C(CCCO)O | C4H10O2
reactant | terephthalic acid | one mole | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | 1,4-butanediol | 1.1-2.2 moles | C(CCCO)O | C4H10O2
product | bis(hydroxybutyl) terephthalate | C(C1=CC=C(C(=O)OCCCCO)C=C1)(=O)OCCCCO | C16H22O6
